US07449475B2
4-(acetylamino)-3-[(2S)-oxiran-2-ylmethoxy]phenyl acetate
A solution of 4-(acetylamino)-3-hydroxyphenyl acetate (669 mg, 3.2 mmol), (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate (748 mg, 2.9 mol) and caesium carbonate (1.05 g, 3.2 mmol) in 1-methyl-pyrrolidinone (10 mL) was stirred over night at room temperature, and then partitioned between water and ethyl acetate. The organic phase was washed twice with water and concentrated to an yellow oil, which was suspended in methanol/diethyl ether, ½. The precipitated beige solid was filtered off and dried to give the titled compound (296 mg, 38%).

reactant | 4-(acetylamino)-3-hydroxyphenyl acetate | 3.2 mmol, 669 mg | C(C)(=O)OC1=CC(=C(C=C1)NC(C)=O)O | C10H11NO4
reactant | (2S)-oxiran-2-ylmethyl 3-nitrobenzenesulfonate | 2.9 mol, 748 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1OC1 | C9H9NO6S
reactant | caesium carbonate | 3.2 mmol, 1.05 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1-methyl-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(acetylamino)-3-[(2S)-oxiran-2-ylmethoxy]phenyl acetate | 296 mg, 38% | C(C)(=O)OC1=CC(=C(C=C1)NC(C)=O)OC[C@H]1OC1 | C13H15NO5
